US07786165B2
tert-butyl 3-(4-{[(4′-{2-[acetyl(ethyl)amino]ethoxy}-2′,6′-dimethylbiphenyl-3-yl)methyl][(2-nitrophenyl)sulfonyl]amino}-2-fluorophenyl)propanoate
In the same manner as in Example 196, the title compound (0.19 g) was obtained as a colorless amorphous powder from tert-butyl 3-(2-fluoro-4-{[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methyl][(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate, 2-(ethylamino)ethanol and acetic anhydride

reactant | tert-butyl 3-(2-fluoro-4-{[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methyl][(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate | FC1=C(C=CC(=C1)N(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CC=1C=C(C=CC1)C1=C(C=C(C=C1C)O)C)CCC(=O)OC(C)(C)C | C34H35FN2O7S
reactant | 2-(ethylamino)ethanol | C(C)NCCO | C4H11NO
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | tert-butyl 3-(4-{[(4′-{2-[acetyl(ethyl)amino]ethoxy}-2′,6′-dimethylbiphenyl-3-yl)methyl][(2-nitrophenyl)sulfonyl]amino}-2-fluorophenyl)propanoate | 0.19 g | C(C)(=O)N(CCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)CN(C1=CC(=C(C=C1)CCC(=O)OC(C)(C)C)F)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C)CC | C40H46FN3O8S
